US08491869B2
4-(4-Fluoroquinolin-2-yl)aniline T492 was prepared by using general procedure M from 4-(4-Nitroquinolin-2-yl)aniline (6 mg, 0.02 mmol) and KF (26 mg, 0.45 mmol), The crude product was purified by silica chromatography to afford 4-(4-fluoroquinolin-2-yl)aniline as a yellow solid (2 mg, 42%). 1H NMR (400 MHz, CDCl3): δ 8.11 (m, 1H), 8.03 (m, 1H), 8.00 (m, 2H), 7.72 (m, 1H), 7.51 (m, 1H), 7.48 (d, J=11.6 Hz, 1H), 6.80 (m, 2H), 3.93 (br s, 2H); MS (ESI): 239 (M+H+).

reactant | 4-(4-Nitroquinolin-2-yl)aniline | 0.02 mmol, 6 mg | [N+](=O)([O-])C1=CC(=NC2=CC=CC=C12)C1=CC=C(N)C=C1 | C15H11N3O2
reactant | KF | 0.45 mmol, 26 mg | [F-].[K+]
product | 4-(4-fluoroquinolin-2-yl)aniline | 2 mg, 42% | FC1=CC(=NC2=CC=CC=C12)C1=CC=C(N)C=C1 | C15H11FN2
